US06538015B1
A solution containing 660 mg of diphosphorus tetraiodide in 5 ml of anhydrous toluene was heated at 80° C. for 20 min under nitrogen in the dark. The mixture was then treated dropwise with a solution of 674 mg of 5-(3,5-dichlorophenylthio)-4-[(4-pyridyl)hydroxymethyl]-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester in 5 ml of anhydrous toluene. The mixture was stirred at 80° C. for 1 h and then left to cool to room temperature. The mixture was treated with 10 ml of a 10% solution of sodium bisulphite and then stirred at room temperature for 1 h. The mixture was partitioned between ethyl acetate and water then extracted three times. The combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (1:1 to 2:1) for the elution to give 483 mg of 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-carboxylic acid ethyl ester as a pale yellow gum. Mass spectrum (ESI) m/z 450 [M+H]+.

reactant | diphosphorus tetraiodide | 660 mg | P(P(I)I)(I)I | I4P2
reactant | 5-(3,5-dichlorophenylthio)-4-[(4-pyridyl)hydroxymethyl]-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester | 674 mg | C(C)OC(=O)C1=NN(C(=C1C(O)C1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C21H21Cl2N3O3S
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-carboxylic acid ethyl ester | 483 mg | C(C)OC(=O)C1=NN(C(=C1CC1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C21H21Cl2N3O2S
